US07572801B2
2-[3-(4-Methoxy-phenyl)-propoxy]-3H-pyrido[2,3-d]pyrimidin-4-one
In a screw-capped glass tube, 3-(4-methoxyphenyl)-1-propanol ([5406-18-8], 137 mg, 0.826 mmol) was added to a mixture of 2-chloropyrido[2,3-d]pyrimidin-4(1H)-one ([93049-38-8], 50 mg, 0.28 mmol) and KOtBu (62 mg, 0.55 mmol) in DMSO (2 ml). The mixture was heated (3 days, 120° C.) and the title compound was isolated from the product mixture by reversed-phase, preparative HPLC (Agilent Zorbax XdB C18 column, solvent gradient 5-95% CH3CN in 0.1% TFA(aq) over 7 min, flow rate 30 ml/min). MS: m/e=310.5 [M−H−], 1H NMR (d6-DMSO): δ 2.02 (dd, 2H), 3.36 (d, 2H), 3.71 (s, 3H), 4.42 (d, 2H), 6.86 (d, 2H), 7.15 (d, 2H), 7.36 (dd, 1H), 8.38 (d, 1H), 8.79 (d, 1H).

reactant | 3-(4-methoxyphenyl)-1-propanol | 0.826 mmol, 137 mg | COC1=CC=C(C=C1)CCCO | C10H14O2
reactant | 2-chloropyrido[2,3-d]pyrimidin-4(1H)-one | 0.28 mmol, 50 mg | ClC1=NC(C2=C(N1)N=CC=C2)=O | C7H4ClN3O
reactant | KOtBu | 0.55 mmol, 62 mg | CC(C)(C)[O-].[K+]
reactant | CH3CN | CC#N | C2H3N
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-[3-(4-Methoxy-phenyl)-propoxy]-3H-pyrido[2,3-d]pyrimidin-4-one | COC1=CC=C(C=C1)CCCOC=1NC(C2=C(N1)N=CC=C2)=O | C17H17N3O3
